US05116981
3-[6-(3-Hydroxy-1-undecynyl)-2-pyridinyl]-oxiranebutanol
3-Hydroxy-undec-1-yne (33 mg, 0.194 mmole) and 5,6-epoxy-6[6-bromopyridine-2yl]hexane-1-ol (44 mg, 0.162 mmole) are combined in 1 ml degassed triethylamine in a 25 ml one-neck round bottom flask under argon. The solution is treated with (bis)triphenylphosphine palladium dichloride (3 mg, 0.004 mmole), warmed to 55° C., and is treated with cuprous iodide (1 mg, 0.005 mmole). The reaction mixture is stirred 1.5 hours at 55° C., cooled to room temperature, and the volatiles are removed in vacuo. The residue is partitioned between 1×10 ml diethyl ether and 1×10 ml saturated sodium chloride/ammonium chloride (1:1). The aqueous layer is further extracted with 3×10 ml diethyl ether. The combined organics are dried over magnesium sulfate and concentrated in vacuo to a pale oil.

reactant | 3-Hydroxy-undec-1-yne | 0.194 mmole, 33 mg | OC(C#C)CCCCCCCC | C11H20O
reactant | 5,6-epoxy-6[6-bromopyridine-2yl]hexane-1-ol | 0.162 mmole, 44 mg | O1C(CCCCO)C1C1=NC(=CC=C1)Br | C11H14BrNO2
product | 3-[6-(3-Hydroxy-1-undecynyl)-2-pyridinyl]-oxiranebutanol | OC(C#CC1=CC=CC(=N1)C1C(O1)CCCCO)CCCCCCCC | C22H33NO3
